US08629271B2
b) 5-(2-(tert-Butyldimethylsilyloxy)ethyl)thiophene-2-carbaldehyde
n-Butyllithium (2.5M in hexanes, 30 mL) was added dropwise to a solution of tert-butyldimethyl(2-(thiophen-2-yl)ethoxy)silane (example 4, step a) (16 g) in tetrahydrofuran (250 mL) at −78° C. The reaction mixture was allowed to warm to 0° C. and stirred for 1 h. The reaction was then cooled to −78° C. and DMF (34 mL) was added over 10 min. The reaction mixture was allowed to warm to room temperature and stirred for 18 h. The reaction mixture was partitioned between water and ethyl acetate. The organic layer was separated, washed with water, dried over sodium sulphate, filtered and the solvent evaporated in vacuo. Purification was by silica gel chromatography, eluting with 93:7 isohexane:ethyl acetate to give the subtitled compound as a colourless oil. Yield 15.4 g.

reactant | n-Butyllithium | 2.5M, 30 mL | C(CCC)[Li]
reactant | tert-butyldimethyl(2-(thiophen-2-yl)ethoxy)silane | C(C)(C)(C)[Si](OCCC=1SC=CC1)(C)C | C12H22OSSi
reactant | DMF | 34 mL | CN(C)C=O | C3H7NO
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
product | 5-(2-(tert-Butyldimethylsilyloxy)ethyl)thiophene-2-carbaldehyde | [Si](C)(C)(C(C)(C)C)OCCC1=CC=C(S1)C=O | C13H22O2SSi
